US04460584
Potassium cyanate (0.055 g.) was added in portions to a solution of 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[5-cyanomethylaminopentyl]pyrimidine (0.02 g.) in 80% v/v aqueous HOAc (2 ml.) at 0° and the mixture stirred for 1 hour, then heated at 60°-70° for 20 minutes. Concentrated aqueous hydrochloric acid (1 ml.) and water (0.6 ml.) were added and the mixture was heated on a steam bath for 30 minutes. On cooling, saturated sodium carbonate solution was added until the pH was approximately 7. The mixture was extracted with EtOAc, the extract dried (MgSO4) and evaporated. The residue was dissolved in EtOH (4 ml.) and a solution of maleic acid (0.065 g.) in EtOH (0.5 ml.) added. On standing there was obtained 2,4-dihydroxy-1-(5-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-yl]pentyl)imidazole maleate (0.2 g.), m.p. 183°-185°.

reactant | Potassium cyanate | 0.055 g | [O-]C#N.[K+]
reactant | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[5-cyanomethylaminopentyl]pyrimidine | 0.02 g | FC(CN=C(NC1=NC(=NC=C1)CCCCCNCC#N)N)(F)F | C14H20F3N7
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 0.6 ml | O | H2O
solvent | HOAc | 2 ml | CC(=O)O | C2H4O2
product | 2,4-dihydroxy-1-(5-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-yl]pentyl)imidazole maleate | 0.2 g | C(\C=C/C(=O)O)(=O)O.OC=1N(C=C(N1)O)CCCCCC1=NC=CC(=N1)NC(=NCC(F)(F)F)N | InChI=1S/C15H20F3N7O2.C4H4O4/c16-15(17,18)9-21-13(19)23-11-5-6-20-10(22-11)4-2-1-3-7-25-8-12(26)24-14(25)27;5-3(6)1-2-4(7)8/h5-6,8,26H,1-4,7,9H2,(H,24,27)(H3,19,20,21,22,23);1-2H,(H,5,6)(H,7,8)/b;2-1-
